US08076336B2
1-[3-Methoxy-5-(pentafluorosulfanyl)phenyl]ethanone
3,N-Dimethoxy-N-methyl-5-(pentafluorosulfanyl)benzamide (O3.007; 2.0 g) was dissolved in absolute THF (60 ml), and methylmagnesium bromide (5.2 ml, 3 M in diethyl ether) was added dropwise at 0° C. while stirring. After addition, the ice bath was removed and the mixture was stirred at RT for 2 h. 1 N hydrochloric acid was then added dropwise while cooling, followed by water and ethyl acetate. The organic phase was removed and the aqueous phase was extracted twice more with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC (met. A). The product-containing fractions were combined, freed of the acetonitrile and extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 1.63 g of the desired compound were obtained.

reactant | 3,N-Dimethoxy-N-methyl-5-(pentafluorosulfanyl)benzamide | 2.0 g | COC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C10H12F5NO3S
reactant | methylmagnesium bromide | 3 M, 5.2 ml | C[Mg]Br
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-[3-Methoxy-5-(pentafluorosulfanyl)phenyl]ethanone | 1.63 g | COC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C9H9F5O2S
